US05166062
Preparation of the Stereoisomer Mixture of α,α'-Dimethyl-1,3-benzenedimethanol (Compounds (S,S), (R,S), and (R,R) 4)
This mixture of stereoisomers was prepared from 1,3-diacetylbenzene by reduction with sodium borohydride as described above for the para stereoisomers. The mixture of stereoisomers was isolated as a semisolid. It appeared as a single spot on TLC and as a single peak on VPC.

reactant | 1,3-diacetylbenzene | C(C)(=O)C1=CC(=CC=C1)C(C)=O | C10H10O2
reactant | sodium borohydride | [BH4-].[Na+]
product | α,α'-Dimethyl-1,3-benzenedimethanol | CC(O)C1=CC(=CC=C1)C(O)C | C10H14O2
